US07608639B2
3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester
A mixture of 3-[4-(3-hydroxy-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester (2.83 g, 9.01 mmol), 3-bromo-4-fluorobenzotrifluoride (2.19 g, 9.01 mmol) and 325 mesh potassium carbonate (1.49 g, 10.8 mmol) in dry DMSO (36 mL) is heated to 100° C. and stirred for 5 hours under N2. The reaction is cooled and acidified with 1 N HCl. The mixture is then diluted with Et2O and extracted with water. The organic layer is dried (Na2SO4), and the solvent removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 9/1 hexanes/ethyl acetate to afford 3.45 g (71%) of the title compound. Rf=0.54 (2/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C26H24O4F3Br 536, found 554 and 556 (M+NH4, 100%).

reactant | 3-[4-(3-hydroxy-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid ethyl ester | 9.01 mmol, 2.83 g | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)O)C)=O | C19H22O4
reactant | 3-bromo-4-fluorobenzotrifluoride | 9.01 mmol, 2.19 g | BrC=1C=C(C=CC1F)C(F)(F)F | C7H3BrF4
reactant | potassium carbonate | 10.8 mmol, 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 36 mL | CS(=O)C | C2H6OS
solvent | Et2O | CCOCC | C4H10O
product | 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | 3.45 g, 71% | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
